US07074794B2
Using 6-chloronicotinamide (5.00 g) and piperazine (27.6 g), and by reaction in the same manner as in Example 196 (1) at 100° C., 1-(5-carbamoyl-2-pyridyl)piperazine (0.41 g) was obtained as a yellow powder.

reactant | 6-chloronicotinamide | 5.00 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | piperazine | 27.6 g | N1CCNCC1 | C4H10N2
product | 1-(5-carbamoyl-2-pyridyl)piperazine | 0.41 g | C(N)(=O)C=1C=CC(=NC1)N1CCNCC1 | C10H14N4O
